US04921851
In 106 ml of dichloromethane are suspended 3.1 g of triphenylphosphine and 3.93 g of 2,2'-dithiobis(benzothiazole) and the suspension is stirred at room temperature for 30 minutes. Then, with ice-cooling, 1.49 g of 2-(5-amino-l,2,4-thiadiazol-3-yl)-(Z)-2-ethoxyiminoacetic acid is added and the mixture is stirred for 15 hours. The reaction mixture is then filtered and the filtrate is concentrated under reduced pressure. The residue is subjected to silica gel (50 g) column chromatography and elution is carried out with ethyl acetate-hexane (2:1). By the above procedure there is obtained S-(2-benzothiazolyl) 2-(5-amino-1,2,4-thiadiazol-3-yl)-(Z)-2-ethoxyiminothioacetate as light yellow crystals.

reactant | triphenylphosphine | 3.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2'-dithiobis(benzothiazole) | 3.93 g | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
reactant | 2-(5-amino-l,2,4-thiadiazol-3-yl)-(Z)-2-ethoxyiminoacetic acid | 1.49 g | NC1=NC(=NS1)/C(/C(=O)O)=N/OCC | C6H8N4O3S
solvent | dichloromethane | 106 ml | ClCCl | CH2Cl2
product | S-(2-benzothiazolyl) 2-(5-amino-1,2,4-thiadiazol-3-yl)-(Z)-2-ethoxyiminothioacetate | NC1=NC(=NS1)/C(/C(=O)SC=1SC2=C(N1)C=CC=C2)=N/OCC | C13H11N5O2S3
